US06333308B1
Equimolar amounts of methyl (R,S)-2-bromo-2-phenylacetate and 3-hydroxymethylaniline are reacted to give methyl N-(3-hydroxymethylphenyl)aminophenyl-acetate. By reaction with thionyl chloride to give methyl N-(3-chloromethylphenyl)aminophenylacetate and subsequent reaction with sodium azide, methyl N-(3-azidomethylphenyl)aminophenylacetate (“A”) is obtained. A solution of 9.2 g of “A” in 350 ml of ethyl acetate is hydrogenated for 35 minutes in the presence of 1 g of Pd/C (5%). After removing the catalyst and the solvent, methyl N-(3-aminomethylphenyl)aminophenyl-acetate) (“B”) is obtained as an oil, RT 19.5; FAB 271.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | methyl N-(3-chloromethylphenyl)aminophenylacetate | ClCC=1C=C(C=CC1)NC(C(=O)OC)C1=CC=CC=C1 | C16H16ClNO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | methyl N-(3-azidomethylphenyl)aminophenylacetate | N(=[N+]=[N-])CC=1C=C(C=CC1)NC(C(=O)OC)C1=CC=CC=C1 | C16H16N4O2
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | methyl N-(3-aminomethylphenyl)aminophenyl-acetate | NCC=1C=C(C=CC1)NC(C(=O)OC)C1=CC=CC=C1 | C16H18N2O2
